* SPICE export by:  S-Edit 16.30
* Export time:      Sun Mar 03 13:24:45 2019
* Design:           Counter_TDC
* Cell:             vernier_o_TDC
* Interface:        view0
* View:             view0
* View type:        connectivity
* Export as:        top-level cell
* Export mode:      hierarchical
* Exclude empty cells: yes
* Exclude .model:   no
* Exclude .end:     no
* Exclude simulator commands:     no
* Expand paths:     yes
* Wrap lines:       no
* Root path:        C:\Users\makif\Google Drive\TEZ ÇALIÞMAM\çizim\Counter_TDC\Counter_TDC
* Exclude global pins:   no
* Exclude instance locations: no
* Control property name(s): SPICE

********* Simulation Settings - General Section *********

*************** Subcircuits *****************
.subckt buffer In Out Gnd Vdd 
MN1 N_1 In Gnd 0 NMOS W=2.5u L=130n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=0 $y=-225 $w=400 $h=600
MN2 Out N_1 Gnd 0 NMOS W=2.5u L=130n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=1200 $y=-225 $w=400 $h=600
MP1 N_1 In Vdd Vdd PMOS W=2.5u L=130n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=0 $y=775 $w=400 $h=600
MP2 Out N_1 Vdd Vdd PMOS W=2.5u L=130n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=1200 $y=775 $w=400 $h=600
.ends

.subckt INV A Out Gnd Vdd 
* Design: LogicGates / Cell: INV / View: Name / Page: Page0
* Designed by: Tanner EDA Library Development Team
* Organization: Tanner EDA - Tanner Research, Inc.
* Info: Inverter
* Date: 06/13/07 23:17:11
* Revision: 64 $ $x=7600 $y=600 $w=3600 $h=1200
MN1 Out A Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=4600 $y=2600 $w=400 $h=600
MP1 Out A Vdd Vdd PMOS W=2.5u L=250n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=4600 $y=3600 $w=400 $h=600
.ends

.subckt NAND2C A B Out1 Out2 Gnd Vdd 
* Design: LogicGates / Cell: NAND2C / View: Name / Page: Page0
* Designed by: Tanner EDA Library Development Team
* Organization: Tanner EDA - Tanner Research, Inc.
* Info: 2 Input NAND with complementary output.
* Date: 06/13/07 23:17:11
* Revision: 62 $ $x=7600 $y=600 $w=3600 $h=1200
MN1 Out1 A 1 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=3500 $y=3600 $w=400 $h=600
MN2 1 B Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=3500 $y=2800 $w=400 $h=600
MN3 Out2 Out1 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=5900 $y=3600 $w=400 $h=600
MP1 Out1 A Vdd Vdd PMOS W=2.5u L=250n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=3500 $y=4400 $w=400 $h=600
MP2 Out1 B Vdd Vdd PMOS W=2.5u L=250n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=4700 $y=4400 $w=400 $h=600
MP3 Out2 Out1 Vdd Vdd PMOS W=2.5u L=250n M=2 AS=4.5p PS=13.6u AD=3.125p PD=7.5u $ $x=5900 $y=4400 $w=400 $h=600
.ends

.subckt encoder8x3 B1 B2 B3 B4 B5 B6 B7 D0 D1 D2 Gnd Vdd 
XINV_1 N_22 D0 Gnd Vdd INV $ $x=3850 $y=400 $w=900 $h=600
XINV_2 N_21 D1 Gnd Vdd INV $ $x=3850 $y=-300 $w=900 $h=600
XINV_3 N_23 D2 Gnd Vdd INV $ $x=3850 $y=-1000 $w=900 $h=600
XINV_4 B2 N_1 Gnd Vdd INV $ $x=-2850 $y=-6600 $w=900 $h=600
XINV_5 B3 N_4 Gnd Vdd INV $ $x=-2750 $y=-5700 $w=900 $h=600
XINV_6 B4 N_7 Gnd Vdd INV $ $x=-2850 $y=-4300 $w=900 $h=600
XINV_7 B5 N_10 Gnd Vdd INV $ $x=-3850 $y=-3400 $w=900 $h=600
XINV_8 B6 N_13 Gnd Vdd INV $ $x=-3850 $y=-2400 $w=900 $h=600
XINV_9 B7 N_16 Gnd Vdd INV $ $x=-3950 $y=-1400 $w=900 $h=600
XNAND2C_1 N_1 B1 N_2 N_3 Gnd Vdd NAND2C $ $x=-1700 $y=-6700 $w=1200 $h=600
XNAND2C_2 N_4 B2 N_5 N_6 Gnd Vdd NAND2C $ $x=-1700 $y=-5800 $w=1200 $h=600
XNAND2C_3 N_7 B3 N_8 N_9 Gnd Vdd NAND2C $ $x=-1800 $y=-4600 $w=1200 $h=600
XNAND2C_4 N_10 B4 N_11 N_12 Gnd Vdd NAND2C $ $x=-2800 $y=-3500 $w=1200 $h=600
XNAND2C_5 N_13 B5 N_14 N_15 Gnd Vdd NAND2C $ $x=-2800 $y=-2500 $w=1200 $h=600
XNAND2C_6 N_16 B6 N_17 N_18 Gnd Vdd NAND2C $ $x=-2900 $y=-1500 $w=1200 $h=600
XNAND2C_7 Vdd B7 N_19 N_20 Gnd Vdd NAND2C $ $x=-2900 $y=-700 $w=1200 $h=600
MNMOS_1 N_23 N_20 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=-800 $y=-1400 $w=400 $h=600
MNMOS_2 N_21 N_20 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=400 $y=-1400 $w=400 $h=600
MNMOS_3 N_22 N_20 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=1700 $y=-1400 $w=400 $h=600
MNMOS_4 N_23 N_18 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=-800 $y=-2400 $w=400 $h=600
MNMOS_5 N_21 N_18 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=400 $y=-2400 $w=400 $h=600
MNMOS_6 N_23 N_15 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=-800 $y=-3400 $w=400 $h=600
MNMOS_7 N_22 N_15 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=1700 $y=-3400 $w=400 $h=600
MNMOS_8 N_23 N_12 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=-800 $y=-4400 $w=400 $h=600
MNMOS_9 N_21 N_9 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=400 $y=-5200 $w=400 $h=600
MNMOS_10 N_22 N_9 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=1700 $y=-5200 $w=400 $h=600
MNMOS_11 N_21 N_6 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=400 $y=-6200 $w=400 $h=600
MNMOS_12 N_22 N_3 Gnd 0 NMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=1700 $y=-7000 $w=400 $h=600
MPMOS_1 N_23 Gnd Vdd Vdd PMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=-800 $y=800 $w=400 $h=600
MPMOS_2 N_21 Gnd Vdd Vdd PMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=400 $y=800 $w=400 $h=600
MPMOS_3 N_22 Gnd Vdd Vdd PMOS W=2.5u L=250n AS=2.25p PS=6.8u AD=2.25p PD=6.8u $ $x=1700 $y=800 $w=400 $h=600
.ends

.subckt new_DFF Clk D INV_Q Q Gnd Vdd 
XNAND2C_1 D D N_1 N_2 Gnd Vdd NAND2C $ $x=-2900 $y=3500 $w=1200 $h=600
XNAND2C_2 Clk N_1 N_3 N_4 Gnd Vdd NAND2C $ $x=-1000 $y=3700 $w=1200 $h=600
XNAND2C_3 D Clk N_5 N_6 Gnd Vdd NAND2C $ $x=-1000 $y=4900 $w=1200 $h=600
XNAND2C_4 Q N_3 INV_Q N_7 Gnd Vdd NAND2C $ $x=1000 $y=3900 $w=1200 $h=600
XNAND2C_5 INV_Q N_5 Q N_8 Gnd Vdd NAND2C $ $x=1000 $y=5100 $w=1200 $h=600
.ends


***** Top Level *****
Xbuffer_1 N_3 T2 Gnd Vdd buffer $ $x=300 $y=3000 $w=600 $h=400
Xbuffer_2 T2 N_1 Gnd Vdd buffer $ $x=1300 $y=3000 $w=600 $h=400
Xbuffer_3 N_1 N_2 Gnd Vdd buffer $ $x=2300 $y=3000 $w=600 $h=400
Xbuffer_4 N_4 N_3 Gnd Vdd buffer $ $x=-600 $y=3000 $w=600 $h=400
Xbuffer_5 N_5 N_4 Gnd Vdd buffer $ $x=-1500 $y=3000 $w=600 $h=400
Xbuffer_6 Start N_5 Gnd Vdd buffer $ $x=-2400 $y=3000 $w=600 $h=400
Xbuffer_7 N_2 N_6 Gnd Vdd buffer $ $x=3400 $y=3000 $w=600 $h=400
Xbuffer_8 N_6 T3 Gnd Vdd buffer $ $x=4400 $y=3000 $w=600 $h=400
Xbuffer_9 N_7 T4 Gnd Vdd buffer $ $x=8500 $y=3000 $w=600 $h=400
Xbuffer_10 N_8 N_7 Gnd Vdd buffer $ $x=7500 $y=3000 $w=600 $h=400
Xbuffer_11 N_9 N_8 Gnd Vdd buffer $ $x=6300 $y=3000 $w=600 $h=400
Xbuffer_12 T3 N_9 Gnd Vdd buffer $ $x=5300 $y=3000 $w=600 $h=400
Xbuffer_13 N_12 T5 Gnd Vdd buffer $ $x=8400 $y=1900 $w=600 $h=400
Xbuffer_14 T5 N_10 Gnd Vdd buffer $ $x=9400 $y=1900 $w=600 $h=400
Xbuffer_15 N_10 N_11 Gnd Vdd buffer $ $x=10400 $y=1900 $w=600 $h=400
Xbuffer_16 N_13 N_12 Gnd Vdd buffer $ $x=7500 $y=1900 $w=600 $h=400
Xbuffer_17 N_14 N_13 Gnd Vdd buffer $ $x=6600 $y=1900 $w=600 $h=400
Xbuffer_18 T4 N_14 Gnd Vdd buffer $ $x=5700 $y=1900 $w=600 $h=400
Xbuffer_19 N_11 N_15 Gnd Vdd buffer $ $x=11500 $y=1900 $w=600 $h=400
Xbuffer_20 N_15 T6 Gnd Vdd buffer $ $x=12500 $y=1900 $w=600 $h=400
Xbuffer_21 N_16 T7 Gnd Vdd buffer $ $x=16600 $y=1900 $w=600 $h=400
Xbuffer_22 N_17 N_16 Gnd Vdd buffer $ $x=15600 $y=1900 $w=600 $h=400
Xbuffer_23 N_18 N_17 Gnd Vdd buffer $ $x=14400 $y=1900 $w=600 $h=400
Xbuffer_24 T6 N_18 Gnd Vdd buffer $ $x=13400 $y=1900 $w=600 $h=400
Xbuffer_25 Stop N_19 Gnd Vdd buffer $ $x=-4400 $y=400 $w=600 $h=400
Xbuffer_26 N_19 S2 Gnd Vdd buffer $ $x=-3800 $y=400 $w=600 $h=400
Xbuffer_29 S2 N_20 Gnd Vdd buffer $ $x=-2000 $y=400 $w=600 $h=400
Xbuffer_30 N_20 S3 Gnd Vdd buffer $ $x=-1400 $y=400 $w=600 $h=400
Xbuffer_33 S3 N_21 Gnd Vdd buffer $ $x=400 $y=400 $w=600 $h=400
Xbuffer_34 N_21 S4 Gnd Vdd buffer $ $x=1000 $y=400 $w=600 $h=400
Xbuffer_37 S4 N_22 Gnd Vdd buffer $ $x=2800 $y=400 $w=600 $h=400
Xbuffer_38 N_22 S5 Gnd Vdd buffer $ $x=3400 $y=400 $w=600 $h=400
Xbuffer_41 S5 N_23 Gnd Vdd buffer $ $x=5200 $y=400 $w=600 $h=400
Xbuffer_42 N_23 S6 Gnd Vdd buffer $ $x=5800 $y=400 $w=600 $h=400
Xbuffer_45 S6 N_24 Gnd Vdd buffer $ $x=7600 $y=400 $w=600 $h=400
Xbuffer_46 N_24 S7 Gnd Vdd buffer $ $x=8200 $y=400 $w=600 $h=400
Xencoder8x3_1 B1 B2 B3 B4 B5 B6 B7 D0 D1 D2 Gnd Vdd encoder8x3 $ $x=800 $y=-2750 $w=800 $h=500 $r=90
Xnew_DFF_2 S7 T7 N_25 B7 Gnd Vdd new_DFF $ $x=4050 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_3 S6 T6 N_26 B6 Gnd Vdd new_DFF $ $x=2750 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_4 S5 T5 N_27 B5 Gnd Vdd new_DFF $ $x=1750 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_5 S4 T4 N_28 B4 Gnd Vdd new_DFF $ $x=850 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_6 Stop Start N_29 B1 Gnd Vdd new_DFF $ $x=-1950 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_7 S2 T2 N_30 B2 Gnd Vdd new_DFF $ $x=-950 $y=-1400 $w=300 $h=800 $r=90
Xnew_DFF_8 S3 T3 N_31 B3 Gnd Vdd new_DFF $ $x=-50 $y=-1400 $w=300 $h=800 $r=90

********* Simulation Settings - Analysis Section *********

********* Simulation Settings - Additional SPICE Commands *********
VPower Vdd Gnd 3.3V
.include "C:\Users\makif\Desktop\130tech\130nm.md"

*VIn In Gnd BIT ({00001111} pw=5n lt=5n ht=5n on=3.3 off=0 rt=0.1n ft=0.1n delay=0)

VStart Start 0 BIT ({0001111111} pw=10n lt=10n ht=10n on=3.3 off=0 rt=0.001n ft=0.001n delay=9.56n)
VStop Stop 0 BIT ({0111000000} pw=10n lt=10n ht=10n on=3.3 off=0 rt=0.001n ft=0.001n delay=0)


.tran 0.1n 100n start=0
.print tran   v(Start,Gnd) v(T2,Gnd) v(T3,Gnd) v(T4,Gnd) v(T5,Gnd) v(T6,Gnd) v(T7,Gnd) 
.print tran   v(D0,Gnd)v(D1,Gnd) v(D2,Gnd)
.print tran   v(B1,Gnd) v(B2,Gnd) v(B3,Gnd)  v(B4,Gnd) v(B5,Gnd) v(B6,Gnd) v(B7,Gnd)
.print tran   v(Stop,Gnd) v(S2,Gnd) v(S3,Gnd)  v(S4,Gnd) v(S5,Gnd) v(S6,Gnd) v(S7,Gnd)
.end

